US07427632B2
3-Chloro-N-[1-cyclopentyl-2-(1-isopropylpiperidin-4-yl-methoxy)ethyl]-1H-indole-6-carboxamide
Using alkylation method A, 3-chloro-N-[1-cyclopentyl-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-6-carboxamide (140 mg, 0.35 mmol) and acetone (0.25 mL, 3.5 mmol) afforded, after SCX purification, 67 g (44%) of the title compound.

reactant | 3-chloro-N-[1-cyclopentyl-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-6-carboxamide | 0.35 mmol, 140 mg | ClC1=CNC2=CC(=CC=C12)C(=O)NC(COCC1CCNCC1)C1CCCC1 | C22H30ClN3O2
reactant | acetone | 3.5 mmol, 0.25 mL | CC(=O)C | C3H6O
product | 3-Chloro-N-[1-cyclopentyl-2-(1-isopropylpiperidin-4-yl-methoxy)ethyl]-1H-indole-6-carboxamide | ClC1=CNC2=CC(=CC=C12)C(=O)NC(COCC1CCN(CC1)C(C)C)C1CCCC1 | C25H36ClN3O2
